US07635715B2
A suspension of 1-bromo-4-chloro-2-iodobenzene (5.4 g, 17.0 mmol), 3,3,3-triethoxyprop-1-yne (4.4 g, 25.6 mmol), copper(I) iodide (976 mg, 5.1 mmol), and trans-dichlorobis(triphenylphosphine)palladium(II) (1.19 g, 1.7 mmol) in ACN (60 mL) was degassed and backfilled with argon. The resulting mixture was treated with TEA (22.0 mL, 157.9 mmol). The reaction flask was capped with a septum and stirred at 23° C. After 90 minutes, the reaction was diluted with EtOAc (300 mL) and washed with water (150 mL). The aqueous layer was extracted with EtOAc (300 mL). The combined organic layers were washed with brine (100 mL), dried over MgSO4, concentrated in vacuo, dissolved in EtOH (50 mL) and water (5 mL) and then treated with p-toluenesulfonic acid monohydrate (5 mg). After stirring at 23° C. for 60 minutes, the solution was concentrated, dissolved in diethyl ether (300 mL) and washed with saturated NaHCO3 solution (100 mL), water (100 mL) and brine (100 mL), dried over MgSO4, and concentrated in vacuo affording 2.7 g of ethyl 3-(2-bromo-5-chlorophenyl)propiolate.

reactant | 1-bromo-4-chloro-2-iodobenzene | 17.0 mmol, 5.4 g | BrC1=C(C=C(C=C1)Cl)I | C6H3BrClI
reactant | 3,3,3-triethoxyprop-1-yne | 25.6 mmol, 4.4 g | C(C)OC(C#C)(OCC)OCC | C9H16O3
solvent | ACN | 60 mL | C(C)#N | C2H3N
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 5.1 mmol, 976 mg | [Cu]I
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 1.7 mmol, 1.19 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 3-(2-bromo-5-chlorophenyl)propiolate | 2.7 g | BrC1=C(C=C(C=C1)Cl)C#CC(=O)OCC | C11H8BrClO2
